US07235572B2
A 1.5 M solution of tert-butyllithium in pentane (3.3 ml, 4.99 mmol) was added dropwise to a solution of 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole (1 g, 2.27 mmol) in THF (6 ml) at −78° C. under an argon atmosphere. After 15 min methyl iodide (0.28 ml, 4.54 mmol) was added at −78° C. The reaction mixture was stirred for another 30 min at −78° C. and then for 2 h at RT. After quenching with saturated aqueous NaHCO3 solution the reaction mixture was partitioned between ether and water. The ether phase was dried over sodium sulfate and concentrated in vacuo to give 863 mg (2.3 mmol, quant.) 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole as red crystals.

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 4.99 mmol, 3.3 ml | CCCCC | C5H12
reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 2.27 mmol, 1 g | BrC1=CN(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
reactant | methyl iodide | 4.54 mmol, 0.28 ml | CI | CH3I
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole | 2.3 mmol, 863 mg | C(C)(C)(C)[Si](N1C=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)C)(C)C | C21H37NOSi2
